US05354937
40 g of 3,4,4-trimethylhex-1-en-3-ol were added dropwise to a mixture of 200 g of polyethylene glycol and 3 g of phosphoric acid at from 285° C. to 290° C. in the course of 2 hours. The organic phase of the two-phase mixture discharged was analyzed by means of GC. 24 g (70%) of 2-tert-amylbutadiene were obtained. The organic phase was processed without purification.

reactant | 3,4,4-trimethylhex-1-en-3-ol | 40 g | CC(C=C)(C(CC)(C)C)O | C9H18O
reactant | phosphoric acid | 3 g | P(O)(O)(O)=O | H3O4P
product | 2-tert-amylbutadiene | 24 g, 70% | C(C)(C)(CC)C(=C)C=C | C9H16
